US05639776
Preparation of 3-(4-chlorophenyl)-l-(3, 3-dimethyl-2-oxobutyl)-4, 5-dihydropyrazol-5-one
A mixture of 3.5 g (16 mmol) of 3-(4-chlorophenyl)-4, 5-dihydropyrazol-5-one, 2.9 g (24 mmol) of chloropinacolone, 5.4 g (39 mmol) of anhydrous potassium carbonate and acetonitrile was heated under reflux for 14 hours. Excess potassium carbonate and the formed salts were removed by filtration. The filtrate was concentrated and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1 (v/v)) to give 4.9 g of the object compound as white crystals (yield 97%).

reactant | 3-(4-chlorophenyl)-4, 5-dihydropyrazol-5-one | 16 mmol, 3.5 g | ClC1=CC=C(C=C1)C1=NNC(C1)=O | C9H7ClN2O
reactant | chloropinacolone | 24 mmol, 2.9 g | ClCC(C(C)(C)C)=O | C6H11ClO
reactant | potassium carbonate | 39 mmol, 5.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(4-chlorophenyl)-l-(3, 3-dimethyl-2-oxobutyl)-4, 5-dihydropyrazol-5-one | 4.9 g, yield 97% | ClC1=CC=C(C=C1)C1=NN(C(C1)=O)CC(C(C)(C)C)=O | C15H17ClN2O2
